US08686167B2
(3Z,6Z)-nona-3,6-dienyl p-toluenesulfonate can be prepared from 2-Pentyn-1-ol by dissolving 2-Pentyn-1-ol (1.03 g, 12 mmol) in chloroform (10 ml) and adding pyridine (1.90 g, 24 mmol) followed by p-toluenesulfonyl chloride (3.43 g, 18 mmol) in small portions with constant stirring. After about 4 hrs, ether (30 ml) and water (7 ml) can be added and the organic layer can be washed successively with HCl (7 ml), 5% NaHCO3, water (7 ml) to produce pent-2-ynyl p-toluenesolfonate. Pent-2-ynyl p-toluenesolfonate (1.37 g, 5.78 mmol, 1.1 eq) can be added at low temperature under nitrogen to a well-stirred suspension in DMF (15 ml) of but-3-yn-1-ol (368 mg, 5.25 mmol), sodium carbonate (834 mg, 7.87 mmol), tetrabutylammonium chloride (1.46 g, 5.25 mmol) and copper(I) iodide (1.00 g, 5.25 mmol). The mixture can then be stirred at room temperature for about 48 hrs, and ether (30 ml) and 1M HCl (30 ml) can be added, the organic phase can be collected and washed with brine, and dried over sodium sulfate to produce nona-3,6-diyn-1-ol. Nona-3,6-diyn-1-ol (198 mg, 1.45 mmol) can be hydrogenated at atmospheric pressure, in the presence of a mixture of quinoline (44 mg) and palladium (5%) on calcium carbonate (100 mg), poisoned with lead in methanol (25 ml). After several hours, the methanol can be evaporated in vacuo, quinoline can be removed by silica gel column chromatography using ether-hexane (35:65) as the eluent to produce (3Z,6Z)-nona-3,6-dien-1-ol. (3Z,6Z)-Nona-3,6-dien-1-ol (167 mg, 1.19 mmol) can be dissolved in chloroform (5 ml) and the solution can be cooled in an ice bath. Pyridine (376 mg, 4.76 mmol) can be added, followed by p-toluenesulfonyl chloride (340 mg, 1.78 mmol) in small portions with constant stirring. The mixture can be stirred for about 24 hrs at low temperature, and ether (15 ml) and water (5 ml) can be added, the organic layer can be collected and washed successively with 1 N HCl (10 ml), 5% NaHCO3, water (10 ml), and brine (10 ml), and then dried over Na2SO4 to produce (3Z,6Z)-nona-3,6-dienyl p-toluenesulfonate.

reactant | (3Z,6Z)-Nona-3,6-dien-1-ol | 1.19 mmol, 167 mg | C(C\C=C/C\C=C/CC)O | C9H16O
reactant | Pyridine | 4.76 mmol, 376 mg | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 1.78 mmol, 340 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ether | 15 ml | CCOCC | C4H10O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 5 ml | O | H2O
product | (3Z,6Z)-nona-3,6-dienyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC\C=C/C\C=C/CC)C | C16H22O3S
